US07618967B2
Dimethylbromoborane (1.77 mL, 1.05 equiv) (Synthesized according to Nöth, H., Vahrenkamp, H. Journal of Organometallic Chemistry 11(1968), 399-405) was added to 3-((1R,3R)-3-azido-indan-1-yl)-1-(toluene-4-sulfonyl)-1H-indole (17.3 mmol ) in 100 mL 1,2-dichloro-ethane under argon at 0° C. The reaction mixture was warmed to room temperature and stirred 2.5 hours. 1 mL Ethanol was added. The reaction mixture was extracted with ethyl acetate and 0.5N aqueous NaOH. The organic phase was washed with brine, dried over MgSO4, concentrated in vacuo to give methyl-{(1R,3R)-3-[1-(toluene-4-sulfonyl)-1H-indol-3-yl]-indan-1-yl}-amine after flash chromatography (ethyl acetate, methanol, triethylamine, silica gel). Methyl-{(1R,3R)-3-[1-(toluene-4-sulfonyl)-1H-indol-3-yl]-indan-1-yl}-amine was dissolved in 8 mL acetone and 20 mL methanol. 8 mL 28% Aqueous NaOH was added and the reaction mixture was stirred in two portions at 120° C. for 10 minutes under microwave irradiation using the Emry Optimizer™ instrument. The reaction mixture was poured into 250 mL water and a precipitate was formed. Recrystallization gave 2.15 g [(1R,3R)-3-(1H-indol-3-yl)-indan-1-yl]-methyl-amine.

reactant | Methyl-{(1R,3R)-3-[1-(toluene-4-sulfonyl)-1H-indol-3-yl]-indan-1-yl}-amine | CN[C@@H]1C[C@H](C2=CC=CC=C12)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)C | C25H24N2O2S
reactant | NaOH | 8 mL | [OH-].[Na+]
reactant | water | 250 mL | O | H2O
solvent | acetone | 8 mL | CC(=O)C | C3H6O
solvent | methanol | 20 mL | CO | CH4O
product | [(1R,3R)-3-(1H-indol-3-yl)-indan-1-yl]-methyl-amine | 2.15 g | N1C=C(C2=CC=CC=C12)[C@@H]1C[C@H](C2=CC=CC=C12)NC | C18H18N2
